US05420298
Using an analogous procedure to that described in Example 27, 3-[3-(4-acetylphenylthio)phenyl]-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine was reacted with hydroxylamine hydrochloride to give 3-{3-[4-(1-hydroxyiminoethyl)phenylthio]phenyl}-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine in 63% yield, m.p. 86°-88° C.

reactant | 3-[3-(4-acetylphenylthio)phenyl]-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine | C(C)(=O)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CN(CC1)CC(F)(F)F)OC | C21H22F3NO2S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 3-{3-[4-(1-hydroxyiminoethyl)phenylthio]phenyl}-3-methoxy-1-(2,2,2-trifluoroethyl)pyrrolidine | 63% yield | ON=C(C)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CN(CC1)CC(F)(F)F)OC | C21H23F3N2O2S
